US08258160B2
To a solution of 4-methylthiazole-5-carboxylic acid (5.00 g, 34.92 mmol) in anhydrous N,N-dimethylformamide (75 mL) was added 1-hydroxybenzotriazole (5.66 g, 41.91 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (8.04 g, 41.91 mmol), N,N-diisopropylethylamine (18.23 mL, 104.76 mmol) and benzylamine (4.57 mL, 41.91 mmol). The reaction mixture was stirred at ambient temperature for 18 hours, diluted with dichloromethane (100 mL) and washed with saturated aqueous sodium bicarbonate solution (55 mL) and brine (45 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (35-45% ethyl acetate in hexanes) to afford N-benzyl-4-methylthiazole-5-carboxamide as a white solid (4.85 g, 60%): 1H NMR (300 MHz, CDCl3) δ 8.69 (s, 1H), 7.36-7.33 (m, 5H), 6.17 (br s, 1H), 4.61 (d, J=6.0 Hz, 2H), 2.72 (s, 3H); MS (ES+) m/z 233.2 (M+1).

reactant | 4-methylthiazole-5-carboxylic acid | 34.92 mmol, 5.00 g | CC=1N=CSC1C(=O)O | C5H5NO2S
reactant | 1-hydroxybenzotriazole | 41.91 mmol, 5.66 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 41.91 mmol, 8.04 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N,N-diisopropylethylamine | 104.76 mmol, 18.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzylamine | 41.91 mmol, 4.57 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-benzyl-4-methylthiazole-5-carboxamide | 4.85 g, 60% | C(C1=CC=CC=C1)NC(=O)C1=C(N=CS1)C | C12H12N2OS
